US06642229B2
2-(3-Bromoimidazo[1,2-a]pyrimidin-7-yl)propan-2-ol was coupled with 4-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 4-fluoro-3′-[7-(2-hydroxyprop-2-yl)imidazo[1,2-a]pyrimidin-3-yl]biphenyl-2-carbonitrile (260 mg, 70%) as a yellow powder: δH (360 MHz, CDCl3) 1.61 (6H, s), 4.51 (1H, s), 7.07 (1H, d, J 7), 7.45 (1H, ddd, J 8, 1 and 1), 7.51-7.60 (3H, m), 7.63-7.69 (2H, m), 7.73 (1H, s), 7.90 (1H, s), 8.94 (1H, d, J 7); m/z (ES+) 383 (M++H).

reactant | 2-(3-Bromoimidazo[1,2-a]pyrimidin-7-yl)propan-2-ol | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 4-fluoro-3′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC=1C=C(C(=CC1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C#N | C19H19BFNO2
product | 4-fluoro-3′-[7-(2-hydroxyprop-2-yl)imidazo[1,2-a]pyrimidin-3-yl]biphenyl-2-carbonitrile | 260 mg, 70% | FC=1C=C(C(=CC1)C1=CC(=CC=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)C#N | C22H17FN4O
